US05308853
Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoic acid
1,1-dimethylethyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]-benzoate (1.28 g, 2.26 mmol) was disolved in methylene chloride (25 mL) and trifluoroacetic acid (3.3 mL). After stirring for 16 hours an additional amount of trifluoroacetic acid (3 mL) was added. Stirred for a further 6 hours and then the reaction mixture was evaporated in vacuo. pH 7 buffer was added and the mixture extracted with ethyl acetate. This extract was drived over MgSO4 and then evaporated in vacuo and crystallized from ethyl acetate/ether.

reactant | 1,1-dimethylethyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]-benzoate | 2.26 mmol, 1.28 g | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1SC=CC1)CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C32H40N4O4S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 3.3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoic acid | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1SC=CC1)CC1=CC=C(C(=O)O)C=C1 | C28H32N4O4S
